US06048894
(1) Preparation of tert-butyl 2-{5-(ethoxycarbonyl)-2-furylmethyl}-3-oxobutanoate
A solution of 1.78 g of potassium tert-butoxide in 60 ml of tert-butyl alcohol was stirred together with 3.00 g of tert-butyl acetoacetate at 60° C. for 30 minutes under heating and then cooled to room temperature. 3.40 g of ethyl 5-(chloromethyl)-2-furancarboxylate was added dropwise, and the solution was stirred at room temperature for 16 hours. The reaction solution was poured into water and extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=9/1→5/1] to give 2.26 g of the title compound as a colorless oily substance.

reactant | potassium tert-butoxide | 1.78 g | CC(C)([O-])C.[K+]
reactant | tert-butyl acetoacetate | 3.00 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | ethyl 5-(chloromethyl)-2-furancarboxylate | 3.40 g | ClCC1=CC=C(O1)C(=O)OCC | C8H9ClO3
reactant | water | O | H2O
solvent | tert-butyl alcohol | 60 ml | C(C)(C)(C)O | C4H10O
product | tert-butyl 2-{5-(ethoxycarbonyl)-2-furylmethyl}-3-oxobutanoate | 2.26 g | C(C)OC(=O)C1=CC=C(O1)CC(C(=O)OC(C)(C)C)C(C)=O | C16H22O6
